US04945091
Synthesis of 4,5-dichloro-2-(3-chloro-tetrahydro-2-pyranyl)-3(2H)-pyridazinone
In 20 ml of methylene chloride were dissolved 4 g of 2,4,5-trichloro-3(2H)-pyridazinone, and thereto dropwise added 2.5 g of 2,3-dihydro-pyran under ice-cooling. The solution was stirred for 30 minutes and the by-produced 4,5-dichloro-3(2H)-pyridazinone was filtered off. The filtrate was distilled off under reduced pressure. The oil thus obtained was separated by means of column chromatography (on silica gel, eluting with benzene) to give 1.5 g of trans-form as the first fraction (m.p.: 136°-137° C.) and 1.3 g of cis-form as the second fraction (m.p.: 109°-110° C.).

reactant | 2,4,5-trichloro-3(2H)-pyridazinone | 4 g | ClN1N=CC(=C(C1=O)Cl)Cl | C4HCl3N2O
reactant | 2,3-dihydro-pyran | 2.5 g | O1CCCC=C1 | C5H8O
reactant | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 4,5-dichloro-2-(3-chloro-tetrahydro-2-pyranyl)-3(2H)-pyridazinone | ClC=1C(N(N=CC1Cl)C1OCCCC1Cl)=O | C9H9Cl3N2O2
